Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
perianal fistula and abscess
 
Major Surgical or Invasive Procedure:
Examination under anesthesia, incision and drainage of abscess, 
placement of Malecot drain

 
History of Present Illness:
___ with PMH significant for fistula in ano with rectal abscess
s/p 3 OR drainages, CAD, CHF, hx of stroke and ___ s/p CABG &
pacemaker who presents with rectal pain. The patient states that 
he has been having worsening rectal pain for the past week. 

Patient first noticed pain on ___ and described as mild. He
did his typical routine of warm shower which in the past has
worked for rectal pain with mild abscess. On ___ he was
admitted to ___ with cough c/w pulmonary edema 
and
was treated with lasix. He was discharged on ___ with
continuing worsening rectal pain. On presentation, he describes 
his pain as
___, with warm baths helping the pain. He had taken no
medications to improve his pain. He felt a palpable mass on his
inner right buttock and feels it has gotten larger. He had been
bedridden with pain for several days. His last bowel movement 
was
the morning of presentation. His last urine output was also that 
morning. He
endorsed trouble passing stool and urine since this morning 
(even
if he were to try he is unable). He endorsed that all 3 times he
has required OR intervention, he has had these same set of
symptoms. He denied fever, chills, abdominal pain, nausea,
vomitting, diarrhea, constipation, bloody bowel movements, or
blood from his rectal mass. 

In the ED, his temp max was 99.5. Lactate is 2.1. WBC 15.8 and
H/H is 10.3/32.3. 

 
Past Medical History:
Illness: HTN, HLD, CAD c/b MI s/p PCI/stent (___), Hx 
perirectal
abscess s/p I&D (___)

___: I&D perirectal abscess (___), EUA, ___ placement
(___)

Medications: ASA 81', metoprolol succinate ER 25'

Allergies: NKDA

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Discharge PE:

VS: AVSS
Gen: well appearing male, NAD
HEENT: no lymphadenopathy, moist mucous membranes
Lungs: CTAB
Heart: rrr
Abd: soft, nt, nd
Incisions: cdi
Extremities: wwp

 
Pertinent Results:
___ 11:43PM   ___ PTT-32.4 ___
___ 05:30PM URINE  HOURS-RANDOM
___ 05:30PM URINE  GR HOLD-HOLD
___ 05:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 05:30PM URINE  RBC-0 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 05:30PM URINE  HYALINE-1*
___ 05:30PM URINE  MUCOUS-RARE
___ 01:02PM   LACTATE-2.1*
___ 11:30AM   GLUCOSE-103* UREA N-37* CREAT-1.6* SODIUM-135 
POTASSIUM-4.1 CHLORIDE-96 TOTAL CO2-22 ANION GAP-21*
___ 11:30AM   estGFR-Using this
___ 11:30AM   WBC-15.8*# RBC-3.37* HGB-10.3* HCT-32.3* 
MCV-96 MCH-30.6 MCHC-31.9* RDW-14.7 RDWSD-52.4*
___ 11:30AM   NEUTS-78.2* LYMPHS-9.6* MONOS-11.3 EOS-0.3* 
BASOS-0.2 IM ___ AbsNeut-12.33* AbsLymp-1.51 AbsMono-1.79* 
AbsEos-0.05 AbsBaso-0.03
___ 11:30AM   PLT COUNT-183
 
Brief Hospital Course:
Patient was taken to the OR on ___ for an examination under 
anesthesia, drainage of abscess, and placement of Malecot drain 
for perianal fistula and abscess. He tolerated the procedure 
well and was transferred to the floor with no issue. 

Neuro:  Pain was well controlled on oxycodone 5 mg q6 hours.  
CV: Vital signs were routinely monitored during the patient's 
length of stay. 
Pulm:  The patient was encouraged to ambulate, sit and get out 
of bed, use the incentive spirometer, and had oxygen saturation 
levels monitored as indicated.
GI: The patient was initially kept NPO after the procedure. The 
patient was later advanced to and tolerated a regular diet at 
time of discharge. 
GU: Patient had a Foley catheter that was removed at time of 
discharge. Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.  
ID:  The patient's vital signs were monitored for signs of 
infection and fever. The patient was started on/continued on 
antibiotics as indicated.
Heme: The patient had blood levels checked post operatively 
during the hospital course to monitor for signs of bleeding. The 
patient had vital signs, including heart rate and blood 
pressure, monitored throughout the hospital stay.  
On ___, the patient was discharged to home. At discharge, he 
was tolerating a regular diet, passing flatus, stooling, 
voiding, and ambulating independently. He will follow-up in the 
clinic in ___ weeks. This information was communicated to the 
patient directly prior to discharge.  

 
Medications on Admission:
ATORVASTATIN - atorvastatin 80 mg tablet. 1 tablet(s) by mouth
once a day
CARVEDILOL - carvedilol 12.5 mg tablet. 1 tablet(s) by mouth
twice a day -  (Prescribed by Other Provider)
DIGOXIN - digoxin 125 mcg tablet. 1 tablet(s) by mouth daily - 
(Prescribed by Other Provider)
LOSARTAN - losartan 25 mg tablet. 1 tablet(s) by mouth daily - 
(Prescribed by Other Provider)
SPIRONOLACTONE - spironolactone 25 mg tablet. 1 tablet(s) by
mouth daily -  (Prescribed by Other Provider)
TORSEMIDE - torsemide 20 mg tablet. 2 tablet(s) by mouth daily - 

(Prescribed by Other Provider)
WARFARIN [COUMADIN] - Coumadin 5 mg tablet. 1 tablet(s) by mouth
daily x 5 days per week, 3mg on M and F -  (Prescribed by Other
Provider)
 
Medications - OTC
ASPIRIN [ASPIR-81] - Aspir-81 81 mg tablet,delayed release. 1
tablet(s) by mouth once a day -  (Prescribed by Other Provider)
IRON - Dosage uncertain -  (Prescribed by Other Provider) (Not
Taking as Prescribed)

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  sodium chloride 0.9 % 0.9 % mallencot drain irrigation BID 
RX *sodium chloride [Saline Wound Wash] 0.9 % please irrigate 
rectal mallenot drain with 60cc of sterile normal saline twice a 
day Refills:*3 
3.  Tamsulosin 0.4 mg PO QHS 
please take for 10 days 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at bedtime Disp #*10 
Capsule Refills:*0 
4.  Atorvastatin 80 mg PO QPM  
5.  Carvedilol 12.5 mg PO BID  
6.  Digoxin 0.125 mg PO DAILY  
7.  Losartan Potassium 25 mg PO DAILY  
8.  Spironolactone 25 mg PO DAILY  
9.  Torsemide 20 mg PO DAILY  
10.  Warfarin 6 mg PO 1X/WEEK (FR)  
11.  Warfarin 4 mg PO 6X/WEEK (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Perianal fistula and abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the ___ on ___ for a perianal 
fistula with abscess. You underwent an examination under 
anesthesia with incision and drainage and placement of a drain. 
You have recovered from the procedure well and are ready to 
return home. 

You were seen by cardiology while you were here prior to your 
surgery. They recommended that you have close follow up with 
your cardiologist once you are discharged from the hospital. You 
required diuresis with Lasix several times during your hospital 
stay with good improvement in your shortness of breath. Please 
ensure that you make an appointment with both your PCP and your 
cardiologist once you are discharged for management of your 
diuretic regimen.

The drain placed in your abscess site should remain until you 
follow up with Dr. ___ in his clinic. You will receive ___ to 
help you flush the drain twice daily.

 
Followup Instructions:
___